US03954764
58.3 G. of 2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol 300 ml. of benzene and 21 g. of finely pulverized calcium chloride are saturated with hydrochloric acid over a period of 2 hours at 15°. The resulting precpitate is filtered, washed with benzene and evaporated under reduced pressure, whereby there is obtained 2,10-dichloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin as white crystals, having a melting point of 84°-85°.

reactant | 2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-ol | 300 ml | ClC1=CC2=C(SC3=C(C(C2)O)C=C(C=C3)F)C=C1 | C14H10ClFOS
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,10-dichloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin | ClC1=CC2=C(SC3=C(C(C2)Cl)C=C(C=C3)F)C=C1 | C14H9Cl2FS
